US07151105B2
Step 2: 3-(3-Fluorophenyl)-1-methyl-1H-1,2,4-triazole-5-carbaldehyde hydrochloride dihydrate
A solution of 5-(diethoxymethyl)-3-(3-fluorophenyl)-1-methyl-1H-1,2,4-triazole (24.0 g, 86 mmol) in 4M HCl (86 mL) was stirred at 60° C. for 2 h. The mixture was concentrated in vacuo, and the residue was recrystallized from MeOH/Et2O mixture (1:1). The resulting solvate was dissolved in water/THF (1:2) and concentrated in vacuo to dryness to afford 11.33 g (47%) of the title product. Satisfactory C,H,N-analysis was obtained. 1H NMR (400 MHz, D2O+TFA): δ 4.16 (s, 3H), 6.47 (s, 1H), 7.42 (m, 1H), 7.62 (m, 1H), 7.70 (m, 1H), 7.77 (m, 1 H). LC/MS (API-ES) calcd for C10H8FN3O: 205.07, found (M+H+): 206.0; (M+18+H+): 224.0 m/z.

reactant | 5-(diethoxymethyl)-3-(3-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 86 mmol, 24.0 g | C(C)OC(C1=NC(=NN1C)C1=CC(=CC=C1)F)OCC | C14H18FN3O2
reactant | HCl | 4M, 86 mL | Cl | ClH
product | 3-(3-Fluorophenyl)-1-methyl-1H-1,2,4-triazole-5-carbaldehyde hydrochloride dihydrate | 11.33 g, 47% | O.O.Cl.FC=1C=C(C=CC1)C1=NN(C(=N1)C=O)C | InChI=1S/C10H8FN3O.ClH.2H2O/c1-14-9(6-15)12-10(13-14)7-3-2-4-8(11)5-7;;;/h2-6H,1H3;1H;2*1H2
